US06660744B1
To a solution containing 4-bromoaniline (7.42 g, 0.0431 mol) and 2-bromoacetophenone (8.58 g, 0.0431 mol) in N,N-dimethylformamide (200 mL) N,N-diisopropylethylamine was added dropwise and the reaction mixture was stirred at ambient temperature for five hours. The solvent was removed under reduced pressure and the residue partitioned between dichloromethane (150 mL) and water (100 mL). The organic phase was dried with magnesium sulfate and concentrated under reduced pressure. The residue was suspended in diethyl ether and the precipitate was collected by filtration and dried to yield 2-(4-bromoanilino)-1-phenyl-1-ethanone (10.03 g, 0.0346 mol) as an off-white solid.

reactant | 4-bromoaniline | 0.0431 mol, 7.42 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 2-bromoacetophenone | 0.0431 mol, 8.58 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 2-(4-bromoanilino)-1-phenyl-1-ethanone | 0.0346 mol, 10.03 g | BrC1=CC=C(NCC(=O)C2=CC=CC=C2)C=C1 | C14H12BrNO
